US08012966B2
N-{3-[5-(2-Dimethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-hydroxy-2-methyl-propionamide
The title compound was prepared under the same conditions as described in Example 112 with 5-(2-dimethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and N-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-hydroxy-2-methyl-propionamide as starting materials to give N-{3-[5-(2-dimethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-hydroxy-2-methyl-propionamide (40 mg, 41.8%) as a yellow solid.

reactant | 5-(2-dimethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CN(CCN1C(C2=C(CC1)NC(=C2C)C=O)=O)C | C13H19N3O2
reactant | N-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-hydroxy-2-methyl-propionamide | FC=1C=C2CC(NC2=CC1NC(C(C)(C)O)=O)=O | C12H13FN2O3
product | N-{3-[5-(2-dimethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-hydroxy-2-methyl-propionamide | 40 mg, 41.8% | CN(CCN1C(C2=C(CC1)NC(=C2C)C=C2C(NC1=CC(=C(C=C21)F)NC(C(C)(C)O)=O)=O)=O)C | C25H30FN5O4
